US04760068
(E)-7-(3-pyridyl)-7-phenyl-6-heptenoic acid (Ia-4) (500 mg) and sodium hydrogen carbonate (160 mg) were added to water (5 ml) to make a homogeneous solution. The solution was concentrated under reduced pressure. The concentrate was pulverized by the use of ethanol-isopropylether to obtain sodium (E)-7-(3-pyridyl)-7-phenyl-6-heptenoate (Ii-76, 300 mg). The physico-chemical properties and other data of the product are shown in Table 6.

reactant | (E)-7-(3-pyridyl)-7-phenyl-6-heptenoic acid | 500 mg | N1=CC(=CC=C1)/C(=C/CCCCC(=O)O)/C1=CC=CC=C1 | C18H19NO2
reactant | sodium hydrogen carbonate | 160 mg | C(O)([O-])=O.[Na+]
solvent | water | 5 ml | O | H2O
product | sodium (E)-7-(3-pyridyl)-7-phenyl-6-heptenoate | 300 mg | N1=CC(=CC=C1)/C(=C/CCCCC(=O)[O-])/C1=CC=CC=C1.[Na+] | InChI=1S/C18H19NO2.Na/c20-18(21)12-6-2-5-11-17(15-8-3-1-4-9-15)16-10-7-13-19-14-16;/h1,3-4,7-11,13-14H,2,5-6,12H2,(H,20,21);/q;+1/p-1/b17-11+;
